US08580785B2
c) Preparation of 6-Amino-2-trifluoromethyl-quinoline-7-carboxylic acid
6-Nitro-2-trifluoromethyl-quinoline-7-carboxylic acid is hydrogenated in ethanol in the presence of Raney-Ni analogously to the procedure described for example H-18, step g). This gives the title product as yellow crystals. LC/MS: 257 (M+1)+.

reactant | 6-Nitro-2-trifluoromethyl-quinoline-7-carboxylic acid | [N+](=O)([O-])C=1C=C2C=CC(=NC2=CC1C(=O)O)C(F)(F)F | C11H5F3N2O4
solvent | ethanol | C(C)O | C2H6O
catalyst | Ni | [Ni] | Ni
product | 6-Amino-2-trifluoromethyl-quinoline-7-carboxylic acid | NC=1C=C2C=CC(=NC2=CC1C(=O)O)C(F)(F)F | C11H7F3N2O2
